US05952299
To a solution of 2,2,2-trichloroethyl (3R)-3-[N2 -benzyloxycarbonyl-N5 -tert-butoxycarbonyl-L-ornithyl]oxy-hexadecanoate (100 mg) in 90% aqueous acetic acid (3 ml) was added zinc powder (400 mg) at 0° C. and stirred for 1 hour. After the reaction mixture was filtered, the filtrate was evaporated in vacuo. The residue was dissolved in ethyl acetate and washed with diluted hydrochloric acid. The organic layer was dried over with sodium sulfate and evaporated in vacuo to give (3R)-3-[N2 -benzyloxycarbonyl-N5 -tert-butoxycarbonyl-L-ornithyl]oxy-hexadecanoic acid (86.5 mg).

reactant | 2,2,2-trichloroethyl (3R)-3-[N2 -benzyloxycarbonyl-N5 -tert-butoxycarbonyl-L-ornithyl]oxy-hexadecanoate | 100 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O[C@@H](CC(=O)OCC(Cl)(Cl)Cl)CCCCCCCCCCCCC | C36H57Cl3N2O8
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 400 mg | [Zn] | Zn
product | (3R)-3-[N2 -benzyloxycarbonyl-N5 -tert-butoxycarbonyl-L-ornithyl]oxy-hexadecanoic acid | 86.5 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O[C@@H](CC(=O)O)CCCCCCCCCCCCC | C34H56N2O8
